US07453010B2
9.1: trans-4-{4-[Benzyl((2S)-3-{4-(benzyloxy)-3-[(methylsulfonyl)amino]phenoxy}-2-hydroxypropyl)-amino]cyclohexyl}-N-[2-(1H-indol-3-yl)ethyl]benzamide
A solution of 0.3 g (0.45 mmol) of trans-4-[4-(benzyl{(2S)-3-[4-(benzyloxy)-3-[(methylsulfonyl)amino]phenoxy]-2-hydroxypropyl}amino)cyclohexyl]benzoic acid (preparation 3), of 0.78 g (0.91 mmol) of 1-hydroxybenzotriazole, of 0.175 g (0.91 mmol) of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide, of 0.19 ml of triethylamine and of 0.138 g (0.86 mmol) of tryptamine in a mixture of 4 ml of dichloromethane and 0.8 ml of acetonitrile is stirred for 24 h. The solvents are evaporated under reduced pressure. Dichloromethane and water are added and the organic phase is washed three times with water. The organic phases are dried over magnesium sulfate and concentrated under reduced pressure. The title compound is obtained in the form of a white solid (0.246 g, 58%) after purification on silica gel (eluent: heptane/ethyl acetate 60/40 for 10 min, 60/40 to 40/60 in 10 min and then 40/60 for 20 min gradient). [M+H+]=801.6

reactant | trans-4-[4-(benzyl{(2S)-3-[4-(benzyloxy)-3-[(methylsulfonyl)amino]phenoxy]-2-hydroxypropyl}amino)cyclohexyl]benzoic acid | 0.45 mmol, 0.3 g | C(C1=CC=CC=C1)N([C@@H]1CC[C@H](CC1)C1=CC=C(C(=O)O)C=C1)C[C@@H](COC1=CC(=C(C=C1)OCC1=CC=CC=C1)NS(=O)(=O)C)O | C37H42N2O7S
reactant | 1-hydroxybenzotriazole | 0.91 mmol, 0.78 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 0.91 mmol, 0.175 g | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | tryptamine | 0.86 mmol, 0.138 g | NCCC1=CNC2=CC=CC=C12 | C10H12N2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | acetonitrile | 0.8 ml | C(C)#N | C2H3N
solvent | triethylamine | 0.19 ml | C(C)N(CC)CC | C6H15N
product | trans-4-{4-[Benzyl((2S)-3-{4-(benzyloxy)-3-[(methylsulfonyl)amino]phenoxy}-2-hydroxypropyl)-amino]cyclohexyl}-N-[2-(1H-indol-3-yl)ethyl]benzamide | C(C1=CC=CC=C1)N([C@@H]1CC[C@H](CC1)C1=CC=C(C(=O)NCCC2=CNC3=CC=CC=C23)C=C1)C[C@@H](COC1=CC(=C(C=C1)OCC1=CC=CC=C1)NS(=O)(=O)C)O | C47H52N4O6S
